US09212182B2
To a solution of 6-(benzylthio)-1-(2,3′-difluoro-5-methoxy-[1,1′-biphenyl]-4-yl)quinolin-2(1H)-one (1.700 g, 3.50 mmol) was added boron tribromide (1.0 M in DCM) (17.51 ml, 17.51 mmol) at rt to give a dark solution and stirred for 1 h. The whole was poured on to ice-water mixture. The product was extracted with DCM (3×30 mL). The organic layer was separated, combined, dried over MgSO4, filtered, and concentrated to afford beige solid. The solid was triturated with a mixture of EtOAc/Et2O. The solid was filtered with an aid of Et2O. 1.32 g was obtained. A second batch was obtained from the filtrate. The filtrate was concentrated. The crude material was absorbed onto a plug of silica gel and purified by chromatography through a Redi-Sep pre-packed silica gel column (12 g), eluting with a gradient of 0% to 50% EtOAc in heptane, to provide 6-(benzylthio)-1-(2,3′-difluoro-5-hydroxy-[1,1′-biphenyl]-4-yl)quinolin-2(1 H)-one (1.42 g, 80% yield) as light brown solid. m/z (ESI): [M+H]+=472.0. 1 H NMR (400 MHz, DMSO-d6) □ppm 4.24 (s, 2 H) 6.63 (d, J=8.80 Hz, 1 H) 6.69 (d, J=9.59 Hz, 1 H) 7.15 (d, J=7.34 Hz, 1 H) 7.18-7.37 (m, 7 H) 7.38-7.48 (m, 3 H) 7.57 (dd, J=8.02, 6.06 Hz, 1 H) 7.79 (d, J=2.15 Hz, 1 H) 7.95 (d, J=9.49 Hz, 1H) 9.97 (s, 1 H).

reactant | 6-(benzylthio)-1-(2,3′-difluoro-5-methoxy-[1,1′-biphenyl]-4-yl)quinolin-2(1H)-one | 3.50 mmol, 1.700 g | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=CC(=C(C=C1OC)C1=CC(=CC=C1)F)F)=O | C29H21F2NO2S
reactant | boron tribromide | 17.51 mmol, 1.0 M, 17.51 ml | B(Br)(Br)Br | BBr3
product | 6-(benzylthio)-1-(2,3′-difluoro-5-hydroxy-[1,1′-biphenyl]-4-yl)quinolin-2(1 H)-one | 1.42 g, 80% yield | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=CC(=C(C=C1O)C1=CC(=CC=C1)F)F)=O | C28H19F2NO2S
